US06495604B1
t-Butyl N-(4-benzyloxycarbonylamino-3-chlorobenzoyl)glycinate (0.80 g) was dissolved in tetrahydrofuran (30 ml) and then admixed with 10% Pd/C (50% water, 160 mg) and then stirred under a hydrogen atmosphere at room temperature for 1.5 hours. The catalyst was filtered off and the filtrate was diluted with ethyl acetate and washed three times with water and twice with saturated brine. The ethyl acetate layer was dried over magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1:1). A desired fraction was concentrated under reduced pressure and the residue was crystallized from a mixture of diisopropyl ether and hexane to yield t-butyl N-(4-amino-3-chlorobenzoyl)glycinate (0.49 g) as white crystals.

reactant | t-Butyl N-(4-benzyloxycarbonylamino-3-chlorobenzoyl)glycinate | 0.80 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C(=O)NCC(=O)OC(C)(C)C)C=C1)Cl | C21H23ClN2O5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | t-butyl N-(4-amino-3-chlorobenzoyl)glycinate | 0.49 g | NC1=C(C=C(C(=O)NCC(=O)OC(C)(C)C)C=C1)Cl | C13H17ClN2O3
